US05618941
Diethyl 5-(4-fluorophenoxy)-1,3-benzenedipropanoate
Treatment of diethyl 3,3'-[5-(4-fluorophenoxy)-1,3-phenylene]bis-2-propenoate (17.0 g) with ammonium formate (27.85 g) and 10% of palladium on carbon (1.70 g) according to the method of Preparation 12 gave the title compound as an oil (12.12 g), Rf 0.30 (SS 1). Found: C,68.01; H,6.46. C22H25FO5 requires C,68.03; H,6.49%.

reactant | diethyl 3,3'-[5-(4-fluorophenoxy)-1,3-phenylene]bis-2-propenoate | 17.0 g | FC1=CC=C(OC=2C=C(C=C(C2)C=CC(=O)OCC)C=CC(=O)OCC)C=C1 | C22H21FO5
reactant | ammonium formate | 27.85 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 1.70 g | [Pd] | Pd
product | Diethyl 5-(4-fluorophenoxy)-1,3-benzenedipropanoate | 12.12 g | FC1=CC=C(OC=2C=C(C=C(C2)CCC(=O)OCC)CCC(=O)OCC)C=C1 | C22H25FO5
